US07414061B2
2-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-pyridine
As described for Example 12, 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole (100 mg, 0.44 mmol) using 2-fluoropyridine instead of 4-fluoroacetophenone was converted to the title compound (31 mg, 23%) which was obtained as an off-white solid. MS: m/e=303.1 [M+H]+.

reactant | 4-(1H-imidazol-4-yl)-5-methyl-3-phenyl-isoxazole | 0.44 mmol, 100 mg | N1C=NC(=C1)C=1C(=NOC1C)C1=CC=CC=C1 | C13H11N3O
reactant | 2-fluoropyridine | FC1=NC=CC=C1 | C5H4FN
product | 2-[4-(5-Methyl-3-phenyl-isoxazol-4-yl)-imidazol-1-yl]-pyridine | 31 mg, 23% | CC1=C(C(=NO1)C1=CC=CC=C1)C=1N=CN(C1)C1=NC=CC=C1 | C18H14N4O
